US05830386
Under nitrogen atmosphere, 10 g (65.5 mM) of (R)-1,2-epoxyoctane and 100 ml of dry diethyl ether (Et2O) were placed in a 200 ml two-necked round-bottomed flask and cooled on an ice bath. Into the mixture, hydrogen chloride gas was blown, followed by stirring for 2.5 hours. Then, the ice bath was removed and the mixture was further stirred for 2 hours at room temperature. After the reaction, the reaction mixture was poured into 250 ml of ice water and subjected to extraction with diethyl ether. The organic layer was washed with distilled water and dried with anhydrous magnesium sulfate, followed by distilling-off of the solvent to obtain 10.4 g of (R)-1-chloro-2-octanol.

reactant | (R)-1,2-epoxyoctane | 65.5 mM, 10 g | O1C[C@H]1CCCCCC | C8H16O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (R)-1-chloro-2-octanol | 10.4 g | ClC[C@@H](CCCCCC)O | C8H17ClO
